### PR TITLE
Improve Lambda typing rules for constants and quantifiers

### PR DESCRIPTION
**Pull request by joscoh**
*Issue #, if available:*

*Description of changes:*

This PR contains some several improvements to Lambda's typing rules and type inference:
1. Refactors constants to use a typed representation rather than representing all as strings. This has significant benefits when typechecking (`inferConst` in `LExprT.lean`) and in the typing rules (`HasType` in `LExprTypeSpec.lean`). It also rules out cases like `.const "3" .bool` automatically.
2. This changes the representation of real constants from strings to `Rat`, and this PR includes functions to convert between `Decimal` and `Rat` in `DecimalRat.lean`.
3. Adds quantifier case to typing rules (`HasType` in `LExprTypeSpec.lean`)
4. Updates and simplifies proofs in `LExprWF.lean`

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

**Comment by shigoel** [comment]
@joscoh Mind resolving conflicts, please?

File: StrataTest/DL/Lambda/LExprTTests.lean [hunk 1]
```diff
@@ -251,6 +251,18 @@ info: ok: ((λ ((%0 : (arrow bool $__ty4)) ((fn : (arrow bool bool)) (#true : bo
...
          return (format $ ans.fst.toLMonoTy)
 
+/-- info: error: Cannot infer the type of this constant: (#3 : bool) -/
+#guard_msgs in
+#eval do 
+    let ans ← LExprT.fromLExpr (@TEnv.default Unit) (.const "3" (some .bool)) 
+    return (format $ ans.fst.toLMonoTy)
+
+/-- info: ok: real -/
+#guard_msgs in
```
Comment (shigoel) [inline StrataTest/DL/Lambda/LExprTTests.lean]: This should be a bug; thanks for catching this! Mind fixing `inferConst`, please, since it feels like this fix can belong in this PR too? See comment in file LExprT.lean.

File: Strata/DL/Lambda/LExprT.lean
Comment (shigoel) [inline Strata/DL/Lambda/LExprT.lean]: Looks like we need similar checks for reals and bitvecs. That'd avoid the typechecker from saying ok to incorrectly annotated literals like `(#true : real)`

File: Strata/DL/Lambda/LExprTypeSpec.lean [hunk 2]
```diff
@@ -121,6 +129,14 @@ inductive HasType {IDMeta : Type} [DecidableEq IDMeta]:
           HasType Γ e2 ty →
           HasType Γ (.eq e1 e2) (.forAll [] (.tcons "bool" []))
 
+  | tquant: ∀ Γ k tr tr_ty x x_ty e o,
+        LExpr.fresh x e →
+        (hx : LTy.isMonoType x_ty) →
+        HasType { Γ with types := Γ.types.insert x.fst x_ty} (LExpr.varOpen 0 x e) (.forAll [] (.tcons "bool" [])) →
+        HasType {Γ with types := Γ.types.insert x.fst x_ty} (LExpr.varOpen 0 x tr) tr_ty →
```
Comment (atomb) [inline Strata/DL/Lambda/LExprTypeSpec.lean]: Tiny nit: the spacing on the two previous lines is inconsistent.

File: Strata/DL/Lambda/LExprWF.lean [hunk 3]
```diff
@@ -234,47 +234,26 @@ theorem varOpen_varClose_when_lcAt
...
-    rw [@c_ih k i h1.left.left h2,
-        @t_ih k i h1.left.right h2,
-        @e_ih k i h1.right h2];
-        simp
-  case eq e1 e2 e1_ih e2_ih =>
-    simp_all [varOpen, lcAt, substK]
-    rw [@e1_ih k i h1.left h2,
-        @e2_ih k i h1.right h2]
-    simp
-  done
```
Comment (atomb) [inline Strata/DL/Lambda/LExprWF.lean:277]: Nice simplification!

**Review by atomb — COMMENTED** [review]
This looks nice. Once you've resolved @shigoel's comments, I'm ready to approve it.

**Review by aqjune-aws — DISMISSED** [review]
This looks like a really great improvement to me!

File: Strata/Languages/Boogie/SMTEncoder.lean [hunk 4]
```diff
@@ -120,39 +122,14 @@ mutual
...
-            .error f!"Unexpected bv constant {e}"
-          | some v => .ok ((Term.bitvec v), ctx)
-        | .string =>
-          match e.denoteString with
-          | none => .error f!"Unexpected string constant {e}"
-          | some s => .ok ((Term.string s), ctx)
-        | _ =>
-          .error f!"Unimplemented encoding for type {ty} in expression {e}"
-
+  | .boolConst b => .ok (Term.bool b, ctx)
```
Comment (shigoel) [inline Strata/Languages/Boogie/SMTEncoder.lean:125]: so beautiful! thanks!

File: Strata/DDM/Util/DecimalRat.lean
Comment (shigoel) [inline Strata/DDM/Util/DecimalRat.lean:1]: Nice!

File: Strata/DL/Lambda/LExpr.lean [hunk 5]
```diff
@@ -153,18 +218,16 @@ Note that we are type-agnostic here.
...
   match e with
-  | .const x (some (.tcons "int" [])) => x.toInt?
-  | .const x none => x.toInt?
+  | .intConst i => some i
   | _ => none
 
 /--
 If `e` is an `LExpr` real, then denote that into a Lean `String`.
 Note that we are type-agnostic here.
 -/
```
Comment (shigoel) [inline Strata/DL/Lambda/LExpr.lean]: Mind changing the comment too to reflect the new `Rat` stuff, please?

File: Strata/DL/Lambda/LExprT.lean [hunk 6]
```diff
@@ -241,115 +236,53 @@ for some kinds of constants, especially for types with really large or infinite
 members (e.g., bitvectors, natural numbers, etc.). `.const` is the place to do
 that.
 -/
-def inferConst (T : (TEnv IDMeta)) (c : String) (cty : Option LMonoTy) :
+def inferConst (C: LContext IDMeta) (T : (TEnv IDMeta)) (c : LConst) :
```
Comment (shigoel) [inline Strata/DL/Lambda/LExprT.lean:239]: beautiful!

**Review by shigoel — APPROVED** [review]
@joscoh Enthusiastic approval, one minor request to update a stale comment.

Also: the build needs to be fixed after I updated the PR.

**Review by aqjune-aws — APPROVED** [review]
